*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents




* input voltage source
Vin 1 0 0.0 ac 1.0 sin(0 230 50)


*resistor
Rs 1 0 1





*ENVELOPE


*fonte dependente
Ev 2 0 1 0 0.1

*DIODO
De1 2 3 Default

*RESISTOR
Re1 3 0 5k

*CONDENSADOR
Ce1 3 0 10u




.model Default D



.op

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 5.6 5.3

hardcopy trans.ps v(3)
echo trans_FIG

.endc

